US05387603
To a solution of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide (113 mg) in dry methylene chloride (1 ml) were added triethylamine (42 μl) and benzoyl chloride (26 μl) with stirring under ice cooling, and the mixture was stirred at room temperature for 2.5 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel by using a mixture of chloroform and methanol (20/1) as eluent to give 108 mg of 1-benzoyl-5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide as an oil.

reactant | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 113 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCNC2=C(C1)C(=O)N)C)CCOC1=C(C=CC=C1)OCC | C27H37N3O5
reactant | triethylamine | 42 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 26 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-benzoyl-5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 108 mg | C(C1=CC=CC=C1)(=O)N1CCC2=CC(=CC(=C12)C(=O)N)CC(C)N(C(=O)OC(C)(C)C)CCOC1=C(C=CC=C1)OCC | C34H41N3O6
